US08420695B2
Step 2. 2-(4-Bromo-2,6-difluorophenyl)vinyl methyl ether
(Methoxymethyl)triphenylphosphonium chloride (1133 g, 3.7 mol) was suspended in tetrahydrofuran (7.0 L) under argon atmosphere, and stirred with ice-water cooling. t-BuOK (397 g, 3.54 mol) was added in portions. Then a solution of 4-bromo-2,6-difluorobenzaldehyde (340 g, 1.54 mol) in tetrahydrofuran (2.7 L) was added and the reaction was stirred at room temperature for 6 hours. The solution was then poured into ice-water and extracted with ethyl acetate (2×). The combined organic phases were dried and concentrated in vacuo. This material was purified by flash chromatography to afford the title compound.

reactant | (Methoxymethyl)triphenylphosphonium chloride | 3.7 mol, 1133 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 3.54 mol, 397 g | CC(C)(C)[O-].[K+]
reactant | 4-bromo-2,6-difluorobenzaldehyde | 1.54 mol, 340 g | BrC1=CC(=C(C=O)C(=C1)F)F | C7H3BrF2O
solvent | tetrahydrofuran | 7.0 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.7 L | O1CCCC1 | C4H8O
product | 2-(4-Bromo-2,6-difluorophenyl)vinyl methyl ether | COC=CC1=C(C=C(C=C1F)Br)F | C9H7BrF2O
